US04218396
N,N"-(4-Fluoro-1,3-phenylene)bis[N',N'-bis-(1-methylethyl)thiourea]
To a solution of 4.2 g. of 2,4-diisothiocyanatofluorobenzene in 100 ml. of acetonitrile is added 4.1 g. of diisopropylamine and the mixture is refluxed for 3 hours. The solvent is removed in vacuo and the residue is crystallized from acetonitrile to yield 5.1 g. of the title compound, melting point 133°-135° C.

reactant | 2,4-diisothiocyanatofluorobenzene | N(=C=S)C1=C(C=CC(=C1)N=C=S)F | C8H3FN2S2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | N,N"-(4-Fluoro-1,3-phenylene)bis[N',N'-bis-(1-methylethyl)thiourea] | FC1=C(C=C(C=C1)NC(=S)N(C(C)C)C(C)C)NC(=S)N(C(C)C)C(C)C | C20H33FN4S2
